Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Spice Flavor / Children's Tylenol Plus / Bactrim
 
Attending: ___.
 
Chief Complaint:
Abscess
 
Major Surgical or Invasive Procedure:
Incision and drainage of abscess
 
History of Present Illness:
Patient is a ___ yo man with PMHx sig. for developmental delay 
and history of MRSA abscesses who presents with an axillary 
abscess.  The patient reports itchy rash under his arms 
bilaterally for the past 2 weeks.  He was seen in the office on 
___, given antifungal creams and antihistamines, which have not 
helped.  A painful lump under his L arm worsened and several 
small R pustules under the right arm.  He reports that the 
redness and itching is spreading to his chest.  The patient 
reports that he has felt febrile for one night, did not take 
temperature.  No chills, nightsweats. 

The patient is a ___ and has been outside recently, has 
sunburn on left arm, but has redness on his chest which patient 
reports is not sunburn. 

In the ED, initial VS were: 98.2 86 134/88 15 98% RA. Exam was 
notable for L axilla with single large abscess 2.5x3.5cm and 
surrounding erythema. This was I&D'ed and packed.  Labs were 
unremarkable. The patient received vancomycin, percocet. 
 
Review of Systems:  
(+) Per HPI  
(-) Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies chest pain or tightness, palpitations. Denies cough, 
shortness of breath. Denies nausea, vomiting, diarrhea, 
constipation, or abdominal pain. No dysuria, urinary frequency. 
Denies arthralgias or myalgias. All other review of systems 
negative. 
 
Past Medical History:
ANEMIA (ICD-285.9)      
CONSTIPATION (ICD-564.0)      
CALCULUS, KIDNEY (ICD-592.0)      
CELLULITIS/ABSCESS - MRSA (ICD-682.9)      
RETARDATION, MENTAL NOS (ICD-319)      
CARPAL TUNNEL SYNDROME, BILATERAL (ICD-354.0)      

 
Social History:
___
Family History:
Mother with diabetes.
 
Physical Exam:
Vitals:  98.1, 121/66, 58, 14. 97RA, ___ pain in L axilla
Gen: NAD, AOX3  
HEENT: PER, EOMI, MMM, sclera anicteric, not injected  
Neck: no LAD, no JVD  
Cardiovascular: RRR normal s1, s2, no murmurs appreciated  
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi  
Abd: normoactive bowel sounds, soft, non-tender, non distended  
Extremities: No edema, 2+ DP pulses, R axilla erythematous with 
scattered pustules, L axilla erythematous with I&D site  
NEURO: PERRL, EOMI, face symmetric, no tongue deviation  
Integument: Warm, moist; erythematous macular rash across chest
Psychiatric: appropriate, pleasant, not anxious  

 
Pertinent Results:
Admission labs:
___ 06:45PM   WBC-8.4 RBC-4.84 HGB-14.2 HCT-41.5 MCV-86 
MCH-29.2 MCHC-34.2 RDW-13.6
___ 06:45PM   NEUTS-55.7 ___ MONOS-4.0 EOS-4.1* 
BASOS-1.8
___ 06:45PM   PLT COUNT-368
___ 06:45PM   GLUCOSE-111* UREA N-17 CREAT-0.9 SODIUM-140 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-29 ANION GAP-12
___ 06:45PM   ___ PTT-26.1 ___
___ 06:52PM   LACTATE-1.___. Abscess, left axilla:  Patient has a history of MRSA skin 
abscesses. This episode was treated with incision and drainage 
followed by IV vancomycin then oral clindamicin. He has an 
appointment with his PCP's office for the day after discharge.
 
Medications on Admission:
OMEPRAZOLE 20 MG CPDR (OMEPRAZOLE) 1 tab po every day      
VYTONE CRE 1% (IODOQUINOL-HC) APPLY BID TO AFFECTED AREAS      
CLOTRIM ANTIFUNGAL CREA 1 % (CLOTRIMAZOLE) apply to affected 
area bid      
DIPHENHYDRAMINE HCL 25 MG CAPS (DIPHENHYDRAMINE HCL) ___ tabs PO 
Q4-6H PRN      
LORATADINE 10 MG TABS (LORATADINE) 1 tab po every day as needed 
for itch
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
2. loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for itching.  
3. iodoquinol-HC ___ % Cream Sig: One (1)  Topical twice a day.  

4. clotrimazole 1 % Cream Sig: One (1)  Topical twice a day.  
5. clindamycin HCl 300 mg Capsule Sig: One (1) Capsule PO every 
eight (8) hours for 6 days.
Disp:*18 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Abscess
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with an abscess in your left axilla (armpit). 
Please continue taking the prescribed antibiotics and follow-up 
with the ___ on tomorrow (___).
 
Followup Instructions:
___